US06998412B2
2-Methyl-2-{6-[5-methyl-2-(p-tolyl)oxazol-4-yl]hexyl-thio}propionic acid
Under argon atmosphere, 24 mg of triturated sodium hydroxide was added to 2 ml of a solution of 100 mg of 4-(6-acetylthiohexyl)-5-methyl-2-(p-tolyl)oxazole in acetone, and stirred for 2 hours at room temperature. To the reaction solution, 20 μl of water was added, followed by addition of 113 mg of 1,1,1-trichloro-2-methyl-2-propanol.0.5 hydride (chloretone), and then 96.5 mg of triturated sodium hydroxide in tree portions at 30 minutes intervals. The mixture was stirred for additional 18 hours at room temperature. The reaction solution was concentrated. The residue was, after addition of water, extracted with diethyl ether. The organic layers were combined, washed with water, and the washings was acidified with 1 N hydrochloric acid and extracted with ethyl acetate. The organic layers were combined, washed with water and brine sequentially, dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (Wakogel® C-200, chloroform:methanol=100:1) and the resulting crystals were washed with n-hexane to provide 28.0 mg of the objective compound as pale yellow crystals.

reactant | sodium hydroxide | 24 mg | [OH-].[Na+]
reactant | 4-(6-acetylthiohexyl)-5-methyl-2-(p-tolyl)oxazole | 100 mg | C(C)(=O)SCCCCCCC=1N=C(OC1C)C1=CC=C(C=C1)C | C19H25NO2S
reactant | 1,1,1-trichloro-2-methyl-2-propanol | 113 mg | ClC(C(C)(O)C)(Cl)Cl | C4H7Cl3O
reactant | hydride | [H-]
reactant | sodium hydroxide | 96.5 mg | [OH-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
solvent | water | 20 μl | O | H2O
product | 2-Methyl-2-{6-[5-methyl-2-(p-tolyl)oxazol-4-yl]hexyl-thio}propionic acid | 28.0 mg | CC(C(=O)O)(C)SCCCCCCC=1N=C(OC1C)C1=CC=C(C=C1)C | C21H29NO3S
